US08455488B2
Synthesis of ethyl 2-(1-allylhydrazinyl)acetate (Compound XV-1)
To the solution of 70%-allylhydrazine 7.73 g (75 mmol) and triethylamine 8.38 ml (60 mmol), ethyl 2-bromoacetate in dichloromethane 25 ml was added and stirred at room temperature for 24 hours and reflux for additional 1 hour. The reaction mixture was diluted with ethyl acetate 150 ml and washed with brine 100 ml. The organic phase was dried with magnesium sulfate and filtered and the mother solution was concentrated in vacuo to obtain the title compound 6.90 g (87%).

reactant | allylhydrazine | 75 mmol, 7.73 g | C(C=C)NN | C3H8N2
reactant | triethylamine | 60 mmol, 8.38 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-bromoacetate | BrCC(=O)OCC | C4H7BrO2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(1-allylhydrazinyl)acetate | 6.90 g, 87% | C(C=C)N(N)CC(=O)OCC | C7H14N2O2
